US05308854
Step A: Preparation of 2-methoxy-3-(2-nitroethenyl)-5-ethyl-6-methylpyridine
A mixture of 2-methoxy-5-ethyl-6-methylnicotinaldehyde (2.25 g, 12.6 mmol), nitromethane (1.9 g, 31.1 mmol), monomethylamine hydrochloride (69 mg) and sodium hydroxide (20 mg) in absolute ethanol (1.3 mL) was stirred at ambient temperature for three days. This mixture was diluted with methanol and the precipitated yellow crystalline product was collected by filtration to yield 2.39 g (86%), m.p. 105°-107° C.

reactant | 2-methoxy-5-ethyl-6-methylnicotinaldehyde | 12.6 mmol, 2.25 g | COC1=C(C=O)C=C(C(=N1)C)CC | C10H13NO2
reactant | nitromethane | 31.1 mmol, 1.9 g | [N+](=O)([O-])C | CH3NO2
reactant | monomethylamine hydrochloride | 69 mg | Cl.CN
reactant | sodium hydroxide | 20 mg | [OH-].[Na+]
solvent | ethanol | 1.3 mL | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 2-methoxy-3-(2-nitroethenyl)-5-ethyl-6-methylpyridine | COC1=NC(=C(C=C1C=C[N+](=O)[O-])CC)C | C11H14N2O3
